US04925864
PREPARATION OF 2,6-DICHLORO-4-FLUOROPHENYLHYDRAZINE (INTERMEDIATE NO. 2)
9.0 g (0.05 mol) of 2,6-dichloro-4-fluoroaniline was added to 50 ml of concentrated hydrochloric acid, and a solution of 3.8 g (0.055 mol) of sodium nitrite in 25 ml of water was dropwise added thereto at a temperature of from 0° to 5° C. After completion of the dropwise addition, the mixture was stirred at the same temperature for further 1 hour. Insolubles were removed by filtration, and the filtrate was dropwise added at a temperature of from 0° to 10° C. to a solution of 33.8 g (0.15 mol) of stannous chloride dihydrate in 50 ml of concentrated hydrochloric acid. After completion of the dropwise addition, the mixture was stirred at the same temperature for further 2 hours. The precipitated hydrochloride was collected by filtration, and 50 ml of water was added thereto. The mixture was made alkaline with an addition of 20% sodium hydroxide, and the precipitated solid was extracted with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous sodium sulfate. Then, the solvent was distilled off. The residue thereby obtained was washed with cold n-hexane to obtain 6.9 g (yield: 70.4%) of the desired compound as white feather-like crystals. Melting point: 117°-119° C.

reactant | 2,6-dichloro-4-fluoroaniline | 0.05 mol, 9.0 g | ClC1=C(N)C(=CC(=C1)F)Cl | C6H4Cl2FN
reactant | sodium nitrite | 0.055 mol, 3.8 g | N(=O)[O-].[Na+]
solvent | water | 25 ml | O | H2O
solvent | hydrochloric acid | 50 ml | Cl | ClH
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 2,6-DICHLORO-4-FLUOROPHENYLHYDRAZINE | 6.9 g, yield: 70.4% | ClC1=C(C(=CC(=C1)F)Cl)NN | C6H5Cl2FN2
